US06531502B1
4-(2-Carboxyethyl)-5-[6-(3-ethoxyphenyl)-2-oxo-1,2-dihydroindol-3-ylidenemethyl]-3-methyl-1H-pyrrole-2-carboxylic acid (350 mg) suspended in ethylene glycol (5 mL) was held in a sealed tube in a pre-heated oil bath at 200° C. for 2.5 hours. The reaction mixture was cooled to 100° C. and potassium hydroxide (4 pellets) was added. It was then stirred at 100° C. for 2 hours. The reaction mixture was cooled, poured into water, and acidified with 2 N hydrochloric acid to pH 2. The precipitate was filtered, washed with water, and dried in a vacuum oven overnight. The crude solid was purified on a silica gel column using 33:66:1 ethyl acetate:hexanes:glacial acetic acid to give 140 mg (44%) of 3-{2-[6-(3-ethoxyphenyl)-2-oxo-1,2-dihydroindol-3-ylidenemethyl]-4-methyl-1H-pyrrol-3-yl}-propionic acid as a brown solid.

reactant | 4-(2-Carboxyethyl)-5-[6-(3-ethoxyphenyl)-2-oxo-1,2-dihydroindol-3-ylidenemethyl]-3-methyl-1H-pyrrole-2-carboxylic acid | 350 mg | C(=O)(O)CCC=1C(=C(NC1C=C1C(NC2=CC(=CC=C12)C1=CC(=CC=C1)OCC)=O)C(=O)O)C | C26H24N2O6
reactant | potassium hydroxide | [OH-].[K+]
reactant | water | O | H2O
reactant | hydrochloric acid | 2 N | Cl | ClH
solvent | ethylene glycol | 5 mL | C(CO)O | C2H6O2
product | 3-{2-[6-(3-ethoxyphenyl)-2-oxo-1,2-dihydroindol-3-ylidenemethyl]-4-methyl-1H-pyrrol-3-yl}-propionic acid | 140 mg, 44% | C(C)OC=1C=C(C=CC1)C1=CC=C2C(C(NC2=C1)=O)=CC=1NC=C(C1CCC(=O)O)C | C25H24N2O4
